US04675332
5-Chloro-3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester
Prepared in a manner analogous to the multistep procedure described [P. Friedlander and K. Kunz, Chem. Ber., 55, 1597 (1922)] for the preparation of 3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester, with 5-chloro-2-(phenylamino)benzoic acid substituted for 2-(phenylamino)benzoic acid in the first step of the synthetic sequence. The final indole product was recrystallized from aqueous 2-methoxyethanol to yield analytically pure product, mp 170°-173° C.

reactant | 3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1 | C16H13NO3
reactant | 5-chloro-2-(phenylamino)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC=CC=C1 | C13H10ClNO2
reactant | 2-(phenylamino)benzoic acid | C1(=CC=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C13H11NO2
product | 5-Chloro-3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=C(C=C2C1O)Cl)C1=CC=CC=C1 | C16H12ClNO3
